US06184208B2
(a) Preparation of Z-Phe-D-Ala-OH
9.68 g (20.0 mmol) of Z-Phe-OPfp was dissolved in 20 ml of THF and to this was added 2.3 g (25.6 mmol) of H-D-Ala-OH dissolved in 5 ml water, pH 8.5. The reaction mixture was stirred for one day and one night at room temperature. The solvents were removed by evaporation under vacuum, 70 ml ethyl acetate was added, and the mixture was acidified to pH 2-3 by the addition of 70 ml of 2% sulfuric acid. The peptide was extracted twice with 70 ml ethyl acetate, washed with saturated sodium chloride solution to neutral pH, then dried over anhydrous sodium sulfate. The solvent was removed by evaporation under vacuum, leaving a thick oil. The product was crystallized from ether/hexane. The yield was 7.6 g (97.7%), melting point was 153-154° C. Rf=0.40 in chloroform:ethyl acetate:methanol:acetic acid=6:3:1:0.1. Rf=0.53 in acetic acid:chloroform:methanol=0.5:16:1. Rf=0.58 in acetic acid:chloroform:methanol=0.5:9:1. [α]20D=+3.2(C=1, CH3OH).

reactant | Z-Phe-OPfp | 20.0 mmol, 9.68 g | N([C@@H](CC1=CC=CC=C1)C(=O)OC1=C(F)C(F)=C(F)C(F)=C1F)C(=O)OCC1=CC=CC=C1 | C23H16F5NO4
reactant | H-D-Ala-OH | 25.6 mmol, 2.3 g | N[C@H](C)C(=O)O | C3H7NO2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | Z-Phe-D-Ala-OH | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@H](C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C20H22N2O5
